US09145380B2
a) 2-Amino-5-methyl-benzenesulfonamide
A mixture of 7-methyl-1,1-dioxo-1,4-dihydro-2-H-benzo[1,2,4]thiadiazin-3-one (7.20 g, 36.36 mmol) in aqueous H2SO4 (50% v/v, 200 mL) was heated at 105° C. for 16 h. The clear solution was then cooled to 0° C. and neutralized using 5N NaOH. The product was extracted with ethyl acetate. The combined extracts were washed with water and concentrated under reduced pressure. The crude product was purified by flash column chromatography using ethyl acetate/hexane (1:1) to afford 4.5 g (85%) of the title compound.

reactant | 7-methyl-1,1-dioxo-1,4-dihydro-2-H-benzo[1,2,4]thiadiazin-3-one | 36.36 mmol, 7.20 g | CC1=CC2=C(NC(NS2(=O)=O)=O)C=C1 | C8H8N2O3S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | H2SO4 | 200 mL | OS(=O)(=O)O | H2O4S
product | 2-Amino-5-methyl-benzenesulfonamide | 4.5 g, 85% | NC1=C(C=C(C=C1)C)S(=O)(=O)N | C7H10N2O2S
